* NJF Cascode Bias Point
* Two-stack JFET cascode: a lower J1 in common-source provides the
* gain while an upper J2 in common-gate shields J1's drain from
* swinging, boosting output impedance. Gates are biased from a
* simple fixed divider so .op exposes the stacked operating point.
* Devices exercised: V, R, J (NJF bundled 2N3819, x2).

.title NJF Cascode Operating Point
.include "../../../resources/models/ngspice/testcircuit_discrete.lib"

* --- Supply ---
Vdd vdd 0 DC 15

* --- Gate bias divider: G2 keeps the upper gate reverse-biased ---
Rg1 0 g1 1Meg
Rg2 vdd g2 47k
Rg3 g2  0 12k

* --- Load at the very top of the cascode ---
Rd vdd drain_top 3.3k

* --- Source self-bias on J1 ---
Rs src 0 680

* --- Lower JFET (common-source): drain / gate / source ---
J1 drain_mid g1 src 2N3819

* --- Upper JFET (common-gate): drain / gate / source ---
J2 drain_top g2 drain_mid 2N3819

* --- Analysis: DC operating point ---
.op

.end
